US08440662B2
Step 7: 2-Chloro-4-morpholin-4-yl-7-pyrimidin-5-yl-quinazoline
To a 50 mL round bottom flask, 7-bromo-2-chloro-4-morpholin-4-yl-quinazoline (0.2 g, 0.0006 mol), pyrimidine-5-boronic acid (0.068 g, 0.0005 mol), sodium carbonate (0.129 g, 0.0012 mol), DMF (10 mL) and water (3 mL) were added and degassed the reaction vessel with N2 for 5-10 min. To the same reaction mixture, Pd(PPh3)2Cl2 (0.029 g, 0.00004 mol) was added and again degassed with N2 for 5-10 min. The reaction mixture was stirred at 95° C. for 2 h. The reaction mixture was cooled and diluted with ethyl acetate. The organic layer was washed with water, brine and dried over sodium sulfate. The solvent was removed under reduced pressure to afford the crude product. The crude product was purified; using column chromatography (60-120 silica gel, 60% ethyl acetate in hexane) to yield the desired product [150 mg, 75%]. 1H NMR (300 MHz, CDCl3): δ 9.27 (s, 1H), 9.04 (s, 2H), 7.85-8.45 (m, 2H), 7.60-7.64 (m, 1H), 3.82-3.91 (m, 8H); LC-MS (ESI): Calculated mass: 327.09; Observed mass: 328.0 [M+H]+ (RT: 0.98 min).

reactant | 7-bromo-2-chloro-4-morpholin-4-yl-quinazoline | 0.0006 mol, 0.2 g | BrC1=CC=C2C(=NC(=NC2=C1)Cl)N1CCOCC1 | C12H11BrClN3O
reactant | pyrimidine-5-boronic acid | 0.0005 mol, 0.068 g | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | sodium carbonate | 0.0012 mol, 0.129 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.00004 mol, 0.029 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 3 mL | O | H2O
product | 2-Chloro-4-morpholin-4-yl-7-pyrimidin-5-yl-quinazoline | 150 mg, 75% | ClC1=NC2=CC(=CC=C2C(=N1)N1CCOCC1)C=1C=NC=NC1 | C16H14ClN5O
